US05283244
In 10 ml of sulfolane was dissolved 1.01 g of -imidazolylpyrido[2,3-b]pyrazine-2,3-dione hydrochloride monohydrate followed by addition of 1.35 g of nitronium tetrafluoroborate, and the mixture was stirred at 120° C. for 4 hours. The reaction mixture was then allowed to cool to room temperature, diluted with 10 ml of water and neutralized with 1N aqueous sodium hydroxide solution. The resulting crystals were recovered by filtration and rinsed with a small amount of water. The resulting crystals were suspended in 2 ml of water followed by addition of a stoichiometric amount of 1N-hydrochloric acid and, further, 5 ml of ethanol. The crystals were recovered by filtration and dried under reduced pressure to provide 0.63 g of 6-imidazolyl-7-nitropyrido[2,3-b]pyrazine-2,3-dione hydrochloride.

reactant | nitronium tetrafluoroborate | 1.35 g | F[B-](F)(F)F.O=[N+]=O
reactant | imidazolylpyrido[2,3-b]pyrazine-2,3-dione hydrochloride monohydrate | O.Cl.N1C(=NC=C1)C=1C=CC=2C(=NC(C(N2)=O)=O)N1
solvent | sulfolane | 10 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | water | 10 ml | O | H2O
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | 6-imidazolyl-7-nitropyrido[2,3-b]pyrazine-2,3-dione hydrochloride | 0.63 g | Cl.N1C(=NC=C1)C=1C(=CC=2C(=NC(C(N2)=O)=O)N1)[N+](=O)[O-] | InChI=1S/C10H4N6O4.ClH/c17-9-10(18)15-7-4(13-9)3-5(16(19)20)6(14-7)8-11-1-2-12-8;/h1-3H,(H,11,12);1H
